US04303655
A mixture of ethyl 2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylate, which can be represented as ethyl 2-(2-tert-pentyloxycarbonylimino-2,3-dihydro-1,3-thiazol-4-yl)-glyoxylate, (2.8 g.) and ethanol (10 ml.) was mixed with a solution of sodium hydroxide (0.54 g. ) in water (20 ml.), and the mixture was stirred for 1 hour at room temperature. After the reaction, a small amount of ethanol was distilled off. The remaining reaction mixture was washed with diethyl ether and then the aqueous layer was separated therefrom. To the aqueous layer was added ethyl acetate, and the mixture was adjusted to pH 1 to 2 with 10% hydrochloric acid and then the ethyl acetate layer was separated therefrom. The ethyl acetate layer was washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and then treated with activated charcoal. The solvent was distilled off from the ethyl acetate layer to give yellow brown powder of 2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylic acid, which can be represented as 2-(2-tert-pentyloxycarbonylimino-2,3-dihydro-1,3-thiazol-4-yl)glyoxylic acid, (1.75 g.).

reactant | ethyl 2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylate | C(C)(C)(CC)OC(=O)NC=1SC=C(N1)C(C(=O)OCC)=O | C13H18N2O5S
reactant | ethyl 2-(2-tert-pentyloxycarbonylimino-2,3-dihydro-1,3-thiazol-4-yl)-glyoxylate | C(C)(C)(CC)OC(=O)N=C1SC=C(N1)C(C(=O)OCC)=O | C13H18N2O5S
reactant | ethanol | 10 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 0.54 g | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
product | 2-(2-tert-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylic acid | C(C)(C)(CC)OC(=O)NC=1SC=C(N1)C(C(=O)O)=O | C11H14N2O5S
